US06191146B1
Preparation of N,N′-bis(picolinoyl)-4,4′-diaminobenzophenone
To a stirred solution of 4,4′-diaminobenzophenone (637 mg, 3.00 mmol) in DMF (30 mL) was added sequentially IPr2NEt (5.30 mL, 30.4 mmol), HOBt (1.23 g, 9.10 mmol), picolinic acid (1.14 g, 9.00 mmol) and BOP reagent (3.98 g, 9.0 mmol). After 17 h at room temperature, the reaction mixture was concentrated in vacuo to ca. 20 mL and added to a rapidly-stirred mixture of EtOAc (100 mL), H2O (100 mL), and sat'd NaCl (100 mL). After stirring for ca 1 h, the phases were separated and the aqueous layer was extracted with EtOAc (2×100 mL). The combined organic layers were washed with H2O (100 mL), dried over MgSO4, filtered, and concentrated in vacuo to a brown solid. Purification by flash chromatography (silica gel, 1% MeOH/CHCl3) afforded 303 mg (24%) of the desired product as a yellow solid. MS (ES+) m/z [M+H]+.

reactant | 4,4′-diaminobenzophenone | 3.00 mmol, 637 mg | NC1=CC=C(C(=O)C2=CC=C(C=C2)N)C=C1 | C13H12N2O
reactant | HOBt | 9.10 mmol, 1.23 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | picolinic acid | 9.00 mmol, 1.14 g | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | BOP reagent | 9.0 mmol, 3.98 g | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | N,N′-bis(picolinoyl)-4,4′-diaminobenzophenone | 303 mg, 24% | N1=C(C=CC=C1)C(=O)NC1=CC=C(C(=O)C2=CC=C(C=C2)NC(C2=NC=CC=C2)=O)C=C1 | C25H18N4O3
